US04024156
A solution of 2-acetyl-5-phenylthiophene (11.7 g, 0.058 mole), described in Examples 1 and 2, in 100 ml of glacial acetic acid is treated dropwise with bromine (9.3 g, 0.058 mole). The mixture is stirred for 1/2 hr, poured into cold water and extracted with chloroform. The extract is washed with water, 5% NaHCO3 and brine, dried (H2CO3) and concentrated to give a yellow solid. The solid is subjected to chromatography on silica gel to give bromomethyl 5-phenyl-2-thienyl ketone (ArCOCHR2Y; Ar is 5-phenyl-2-thienyl, R2 = H and Y = Br) mp 114° C.

reactant | 2-acetyl-5-phenylthiophene | 0.058 mole, 11.7 g | C(C)(=O)C=1SC(=CC1)C1=CC=CC=C1 | C12H10OS
reactant | bromine | 0.058 mole, 9.3 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | bromomethyl 5-phenyl-2-thienyl ketone | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)CBr | C12H9BrOS
